US07375101B2
3-Azido-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one
As illustrated in the scheme above and following General Procedure 6, KHMDS (0.19 mL of 0.5 M in toluene, 0.095 mmol), 7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one (0.0290 g, 0.0918 mmol), trisyl azide (0.0710 g, 0.229 mmol) and acetic acid (0.023 mL, 0.40 mmol) were combined. After workup, purification of the crude product by silica gel column chromatography (49:1 CH2Cl2:EtOAc) provided the title compound (0.0204 g, 62%). 1H-NMR (CDCl3): δ 7.95 (d, J=7.2 Hz, 1H), 7.78-7.70 (m, 2H), 7.54 (dd, J=2.4 Hz, J=8.8 Hz, 1H), 7.31 (d, J=8.8 Hz, 1H), 6.87 (d, J=8.4 Hz, 1H), 4.64 (s, 1H), 3.80 (s, 3H), 3.44 (s, 3H). MS (ESI) (M+H)+=357.

reactant | KHMDS | 0.095 mmol, 0.5 M, 0.19 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one | 0.0918 mmol, 0.0290 g | ClC=1C=CC2=C(C(=NCC(N2C)=O)C2=NC(=CC=C2)OC)C1 | C16H14ClN3O2
reactant | trisyl azide | 0.229 mmol, 0.0710 g | CC(C)C1=CC(=C(C(=C1)C(C)C)S(=O)(=O)N=[N+]=[N-])C(C)C | C15H23N3O2S
reactant | acetic acid | 0.40 mmol, 0.023 mL | C(C)(=O)O | C2H4O2
product | 3-Azido-7-chloro-1,3-dihydro-5-(6-methoxy-2-pyridinyl)-1-methyl-2H-1,4-benzodiazepin-2-one | 0.0204 g, 62% | N(=[N+]=[N-])C1C(N(C2=C(C(=N1)C1=NC(=CC=C1)OC)C=C(C=C2)Cl)C)=O | C16H13ClN6O2
